US05650410
According to the same manner as that described in Example 33, ethyl 2-chloromethyl-4-(4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate was reacted with diethylamine to give ethyl 2-(N,N-diethylaminomethyl)-6,7-dimethoxy-4-(4-methoxyphenyl)quinoline-3-carboxylate. This compound was recrystallized from ethyl acetate - hexane. Colorless prisms, mp. 118°-119° C.

reactant | ethyl 2-chloromethyl-4-(4-methoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC=C(C=C1)OC)OC)OC | C22H22ClNO5
reactant | diethylamine | C(C)NCC | C4H11N
product | ethyl 2-(N,N-diethylaminomethyl)-6,7-dimethoxy-4-(4-methoxyphenyl)quinoline-3-carboxylate | C(C)N(CC)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC=C(C=C1)OC)OC)OC | C26H32N2O5
